US07001897B2
Subsequently, to a solution of (N-t-butoxycarbonyl-N-isopropyl-amino)-acetic acid (2.05 g, 9.44 mmol) and p-nitrobenzyl alcohol (2.89 g, 18.9 mmol) in methylene chloride (100 ml) were added WSC (3.62 g, 18.9 mmol) and 4-dimethylaminopyridine (120 mg, 0.98 mmol) in an ice bath under an atmosphere of nitrogen, and then the mixture was stirred at room temperature overnight. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using hexane:ethyl acetate (5:2) as the eluant to afford (N-t-butoxycarbonyl-N-isopropyl-amino)acetic acid p-nitrobenzyl ester (1.93 g, yield 58%) as a pale yellow transparent syrup.

reactant | (N-t-butoxycarbonyl-N-isopropyl-amino)-acetic acid | 9.44 mmol, 2.05 g | C(C)(C)(C)OC(=O)N(C(C)C)CC(=O)O | C10H19NO4
reactant | p-nitrobenzyl alcohol | 18.9 mmol, 2.89 g | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
reactant | WSC | 18.9 mmol, 3.62 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.98 mmol, 120 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (N-t-butoxycarbonyl-N-isopropyl-amino)acetic acid p-nitrobenzyl ester | 1.93 g, yield 58% | [N+](=O)([O-])C1=CC=C(COC(CN(C(C)C)C(=O)OC(C)(C)C)=O)C=C1 | C17H24N2O6
